US08809552B2
rac-6-Benzenesulfonyl-3,6-diaza-bicyclo[3.2.0]heptane-3-carboxylic acid 2,4-dichloro-benzylamide
To a solution of rac-3,6-diaza-bicyclo[3.2.0]heptane-3-carboxylic acid 2,4-dichloro-benzylamide (150 mg, 270 μmol) in dichloromethane (6 mL) were added triethylamine (82 mg, 810 μmol), pyridine (1 mL) and benzenesulfonyl chloride (52 mg, 297 μmol). The reaction mixture was stirred at ambient temperature overnight before concentrating in vacuo. Purification by chromatography (SiO2; dichloromethane:methanol 1:0 to 19:1) afforded the title compound (56 mg, 47%) as a colorless solid. MS (EI) m/e: 440.1 (M+H)+.

reactant | rac-3,6-diaza-bicyclo[3.2.0]heptane-3-carboxylic acid 2,4-dichloro-benzylamide | 270 μmol, 150 mg | ClC1=C(CNC(=O)N2CC3CNC3C2)C=CC(=C1)Cl | C13H15Cl2N3O
reactant | triethylamine | 810 μmol, 82 mg | C(C)N(CC)CC | C6H15N
reactant | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
reactant | benzenesulfonyl chloride | 297 μmol, 52 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | rac-6-Benzenesulfonyl-3,6-diaza-bicyclo[3.2.0]heptane-3-carboxylic acid 2,4-dichloro-benzylamide | 56 mg, 47% | ClC1=C(CNC(=O)N2CC3CN(C3C2)S(=O)(=O)C2=CC=CC=C2)C=CC(=C1)Cl | C19H19Cl2N3O3S
